Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
amoxicillin
 
Attending: ___.
 
Chief Complaint:
Weakness and lethargy 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ year old female with history of chronic
abdominal pain and anemia w/ recent Fe sucrose infusion (___)
complicated by infusion reaction (mottling and discoloration of
feet) s/p IV steroids who presents with increasing lethargy and
headache.

History per ___ records and per her Aunt as patient cannot
provide much history. Per her aunt, ___ has been doing well
recently without any illness, behavioral change. She had a cold
she was getting over but otherwise doing well. She had an Fe
transfusion on ___ around 3:30P at ___ and the aunt
accompanied her to the visit. Towards the end of the infusion,
___ developed mottle purple lower extremities and was having
nausea, heart racing. She was sent to ___ where she had SBP
up to 144. Her exam per ___ records notable for "shivering...
doesn't open her eyes...mottled hands and feet". There was no
concern for respiratory distress. She was given 50 mg IV
Benadryl, 100 mg IV hydrocortisone and observed for 5 hours and
then discharged. At that time ___ was reportedly "lethargic"
meaning sleeping frequently but able to sit up and walk without
issue. They arrived home and ___ went to bed. Around 6:00 AM
on ___, ___ aunt check on her and she was still sleeping.
She was reporting a headache (which the transfusion place said
would happen) but did not mention other characteristic. 
___
aunt gave her acetaminophen and water and ___ went back to
sleep. Over the next few hours, she heard ___ awake several
times and use the bathroom. Then as it got later and later into
the day and ___ was not up and about yet, her aunt became
worried. She told ___ to call the ___ which she
was able to do. She reportedly said she continued to have a
headache and felt sleepy. She was instructed to go to the ED. 

She went to the ED at ___ for evaluation. At ___ she
had T 99.5, P 58, RR 15 and sat 100%. BP 110/67. She was
reportedly drowsy and arousing to voice, "alert oriented x3",
consistent eye fluttering, pupils reactive to light and
extraocular eye movements full, with reportedly "non focal 
exam".
Lab work notable for WBC 7.2, Hgb 13.2, Na 142, bicarb 26, Cr
0.9, Ca 9.4, normal LFTs, Fe 360, Ferritin 438. VBG pH was 7.43,
PCO2 was 45.She had a normal ___ and LP with WBC 2, 100%
monocytes glucose 57, protein 24, no xanthochromia. She
ultimately had MRA and MRV which showed no thrombus or venoous
thrombosis. She was transferred to ___ for further management.

On my interview she cannot provide much history other than to 
say
she is here because "I'm tired". She keeps her eyes closed 
during
questioning. She reports headache but cannot describe where it 
is
or features other than +photophobia. She is unable to 
participate
in other questioning, often getting tearful and saying "the
questions are hard". 

Per her father and aunt, she has no history of seizures, or CNS
infection. She did have a concussion at ___ years old. 
 
Past Medical History:
Anemia 
 
Social History:
___
Family History:
Mother with a celiac disease and autoimmune hypothyroidism. Dad
is healthy. She has a cousin with seizures.
 
Physical Exam:
Admission exam:
98.1 76 130/78 14 96% RA 
General: appears to be sleeping, occasional eye lid fluttering,
lip movements, occasional slow movements of head from side to
side
HEENT: no trauma, no jaundice, no lesions of oropharynx 
CV: RRR, wwp
Pulm: breathing comfortably on RA 
Ext: clammy, warm and no rash

Neurologic:

-Mental Status: She frequently gets upset during exam and is
tearful at times, then abulic at other times. Eyes open only
briefly to voice. She is oriented to ___ but not full
date. Knows she is in a "hospital" but not the name. She says 
she
is in the hospital because, "I'm tired". She is unable to 
provide
history. Speech is not dysarthric, says ___ words when asked
questions, no spontaneous speech output. Follows simple commands
like open eyes, lift legs. She is able to name "key" and
"feather" on stroke card but then stops naming and closes her
eyes. She reads the first sentence on stroke card but then no
more and closes her eyes. When asked to describe stroke card
picture she says, "dishes". She does not participate in further
exam.

-Cranial Nerves:
 II, III, IV, VI:  Pupils 8 mm->6 mm. EOMI without nystagmus. 
VFF
to confrontation.  Fundoscopic exam revealed no papilledema,
exudates, or hemorrhages.
 VII: No facial droop, facial musculature symmetric with 
grimace.
 VIII: Hearing intact to exam
 IX, X: Palate elevates symmetrically.
 XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. She says she cannot move
her arms. When arms placed over her head, her arms slowly miss
her face and slowly drops to the bed in a controlled fashion. 
She
does lift her arms to hold the side rails of the bed
spontaneously. She lifts her legs antigravity and holds them
without drift.

-Sensory: slightly withdrawals in upper extremities and says
"ouch", briskly withdrawals in lower extremities to noxious
stimuli and says "ouch"

-DTRs:
   ___ Tri ___ Pat Ach
 L  2  2    0    3   2
 R  2  2    0    3   2
 Plantar response was flexor bilaterally.

-Coordination: patient could not participate

-Gait: could not assess as patient would not get out of bed

Discharge Exam:
General: sitting up in her chair with eyes closed
HEENT: no trauma, no jaundice, no lesions of oropharynx 
CV: sinus bradycardia, no m/r/g
Pulm: Breathing comfortably on RA 
Ext: Warm and well perfused, no rash or mottling

Neurologic:

-Mental Status: Answering questions with slow short sentence.
More humor and complex sentences observed today.
Eyes intermittently close while she is talking. Speech
is not dysarthric, no spontaneous speech output. Follows
simple commands.

-Cranial Nerves:
II, III, IV, VI: Pupils 8 mm->4 mm. EOMI without nystagmus. 
V: facial sensation intact throughout
VII: No facial droop, facial musculature symmetric with grimace
but limited facial movements.
IX, X, XII: palate elevates symmetrically, tongue midline

-Motor: Normal bulk, tone throughout. Lifting arms and legs
against gravity but not against resistance (___)

-Sensory: Sensation intact to touch and temperature throughout

-DTRs: 1+ patellar, biceps, brachioradialis throughout

-Coordination: No dysmetria or tremor. 

-Gait: Ambulated well with a ___.
 
Pertinent Results:
Admission labs:
===============
___ 12:59PM   GLUCOSE-77 UREA N-8 CREAT-0.7 SODIUM-142 
POTASSIUM-3.8 CHLORIDE-104 TOTAL CO2-24 ANION GAP-14
___ 12:59PM   ALT(SGPT)-9 AST(SGOT)-13 ALK PHOS-39 TOT 
BILI-0.3
___ 12:59PM   CALCIUM-8.7 PHOSPHATE-4.0 MAGNESIUM-1.7
___ 12:59PM   tTG-IgA-7
___ 12:59PM   WBC-5.0 RBC-3.89* HGB-11.5 HCT-34.4 MCV-88 
MCH-29.6 MCHC-33.4 RDW-12.4 RDWSD-39.8
___ 12:59PM   PLT COUNT-235
___ 05:11AM URINE  HOURS-RANDOM
___ 05:11AM URINE  UCG-NEGATIVE
___ 05:11AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 05:11AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 05:11AM URINE  BLOOD-LG* NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-TR* BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 05:11AM URINE  RBC-5* WBC-1 BACTERIA-FEW* YEAST-NONE 
EPI-0
___ 05:11AM URINE  MUCOUS-RARE*
___ 04:34AM   ___ PTT-27.2 ___
___ 04:28AM   WBC-6.4 RBC-4.17 HGB-12.6 HCT-37.4 MCV-90 
MCH-30.2 MCHC-33.7 RDW-12.4 RDWSD-40.8
___ 04:28AM   NEUTS-58.2 ___ MONOS-7.1 EOS-0.2* 
BASOS-0.6 IM ___ AbsNeut-3.70 AbsLymp-2.14 AbsMono-0.45 
AbsEos-0.01* AbsBaso-0.04
___ 04:28AM   PLT COUNT-246
___ 04:11AM   ___ PO2-50* PCO2-34* PH-7.44 TOTAL 
CO2-24 BASE XS-0 COMMENTS-GREEN TOP
___ 04:10AM   GLUCOSE-84 UREA N-7 CREAT-0.8 SODIUM-143 
POTASSIUM-3.6 CHLORIDE-106 TOTAL CO2-23 ANION GAP-14
___ 04:10AM   estGFR-Using this
___ 04:10AM   ALT(SGPT)-9 AST(SGOT)-14 CK(CPK)-67 ALK 
PHOS-41 TOT BILI-0.3
___ 04:10AM   CK-MB-<1
___ 04:10AM   ALBUMIN-3.9 CALCIUM-8.8 PHOSPHATE-2.9 
MAGNESIUM-1.8
___ 04:10AM   VIT B12-227*
___ 04:10AM   TSH-2.7
___ 04:10AM   TSH-2.6
___ 04:10AM   ___ TITER-1:1280* CRP-3.4 
dsDNA-NEGATIVE
___ 04:10AM   C3-121 C4-27
___ 04:10AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG

EEG ___:
==============
IMPRESSION: This telemetry captured no pushbutton activations. 
The background showed normal waking and sleep patterns. There 
were no focal abnormalities, epileptiform features, or 
electrographic seizures. A bradycardia was noted. 

IMAGING:
========
MRI BRAIN WITH/WITHOUT CONTRAST ___

FINDINGS:  
  
A 5 mm FLAIR hypointense and T1 isointense lesion at midline 
between the 
anterior and posterior pituitary is noted. There is no evidence 
of 
hemorrhage, edema, mass effect, midline shift or infarction. The 
ventricles and sulci are normal in caliber and configuration. 
There is no abnormal enhancement after contrast administration. 
  
IMPRESSION:  
  
A 5 mm FLAIR hypointense and T1 isointense lesion at midline 
between the 
anterior and posterior pituitary likely represents a Rathke's 
cleft cyst.  
Further evaluation is needed, dedicated pituitary MR may be 
obtained. 
  

 
Brief Hospital Course:
See worksheet
 
Medications on Admission:
famotidine 40 mg daily
birth control per her aunt
 
___:
1.  ___ 250 mcg PO DAILY  
2.  Famotidine 40 mg PO DAILY  
3.  Metoprolol Tartrate 12.5 mg PO DAILY  
4.  Multivitamins W/minerals 1 TAB PO DAILY  
5.  Nortriptyline 10 mg PO QHS  
6.  ___ 1 item miscellaneous ONCE 
Prognosis: Good
___: 13 months 
RX ___   Once Disp #*1 Each Refills:*0 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Functional neurological syndrome 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Lethargic but arousable.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___.

You were in the hospital because of headache, lethargy, and 
weakness after an iron infusion.

You had a number of tests performed in the hospital, all of 
which were reassuring. An MRI of your brain showed no evidence 
of stroke or inflammation. An EEG to monitor your brain waves 
showed no evidence of seizure. Your weakness gradually improved 
over the course of your hospitalization and will continue to 
improve after you leave the hospital. 

After leaving the hospital, you should continue to work on 
improving your strength. It will improve as long as you work 
hard!

We wish you the best,
Your ___ Care Team
 
Followup Instructions:
___